US04109087
By substituting 1-benzyl-1,4-dihydro-4-oxo-pyrimido-[1,2-a]benzimidazole-3-carboxylic acid ethyl ester in part a and morpholine in part b of Example 33, 1-benzyl-3-(4-morpholinylcarbonyl)pyrimido[1,2-a]benzimidazole-4(1H)one is obtained.

reactant | 1-benzyl-1,4-dihydro-4-oxo-pyrimido-[1,2-a]benzimidazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=NC3=C(N2C1=O)C=CC=C3)CC3=CC=CC=C3 | C20H17N3O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-benzyl-3-(4-morpholinylcarbonyl)pyrimido[1,2-a]benzimidazole-4(1H)one | C(C1=CC=CC=C1)N1C=C(C(N2C1=NC1=C2C=CC=C1)=O)C(=O)N1CCOCC1 | C22H20N4O3
